US06660753B2
A mixture of 3-(5-bromo-pyrid-3-yl)-5-(2-pyridyl)-1,2,4-oxadiazole 30.3 mg, 0.1 mmol), pyridine-3-boronic acid 1,3-propanediol cyclic ester (32.5 mg, 0.2 mmol), and tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4, 15 mg, 0.013 mmol), in a solution of ethylene glycol dimethyl ether (1 mL) and 2M sodium carbonate (1 mL) was heated in a sealed vial at 100° C. for 1 hour. The reaction was cooled, diluted with dichloromethane, washed with water and saturated brine, filtered, and concentrated. Silica gel chromatography using 50% ethyl acetate in hexane and 100% ethyl acetate afforded 13 mg (43.2%) 5-(2-pyridyl)-3-[5-(3-pyridyl)-pyrid-3-yl]-1,2,4-oxadiazole. 1H-NMR (CDCl3), δ (ppm): 9.49 (d, 1H), 9.01 (d, 1H), 8.93 (dd, 2H), 8.72 (t, 2H), 8.35 (d, 2H), 8.00 (dt, 1H), 7.59 (m, 1H), 7.47 (dd, 1H).

reactant | 3-(5-bromo-pyrid-3-yl)-5-(2-pyridyl)-1,2,4-oxadiazole | 0.1 mmol, 30.3 mg | BrC=1C=C(C=NC1)C1=NOC(=N1)C1=NC=CC=C1 | C12H7BrN4O
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.2 mmol, 32.5 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | ethylene glycol dimethyl ether | 1 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-pyridyl)-3-[5-(3-pyridyl)-pyrid-3-yl]-1,2,4-oxadiazole | 13 mg, 43.2% | N1=C(C=CC=C1)C1=NC(=NO1)C=1C=NC=C(C1)C=1C=NC=CC1 | C17H11N5O
